US03940419
Using the same procedure as described in Example 3 but replacing the ammonia with methylamine gives the title mono-methylamide, m.p. 168.5°-170°C. Similarly, reacting 1-(3-acetamidophthalimido)-cyclohexanecarbonyl chloride with methylamine yields 1-(3-acetamidophthalimido)-N-methylcyclohexanecarboxamide, m.p. 205°-207.5°C.

reactant | 1-(3-acetamidophthalimido)-cyclohexanecarbonyl chloride | C(C)(=O)NC1=C2C(C(=O)N(C2=O)C2(CCCCC2)C(=O)Cl)=CC=C1 | C17H17ClN2O4
reactant | methylamine | CN | CH5N
product | 1-(3-acetamidophthalimido)-N-methylcyclohexanecarboxamide | C(C)(=O)NC1=C2C(C(=O)N(C2=O)C2(CCCCC2)C(=O)NC)=CC=C1 | C18H21N3O4
